*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1508-5N5
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1508-5N5_freq port1 port2 PARAMS: Cpar=0.125pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=90
+ R2=0.063
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=131
+ L_EL=9.75
+ L_F0=647E6
+ PkZ=0
.ends 1508-5N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1508-9N0
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1508-9N0_freq port1 port2 PARAMS: Cpar=0.125pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=40
+ R2=0.115
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=168
+ L_EL=5.63
+ L_F0=283.5E6
+ PkZ=0
.ends 1508-9N0_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1508-13N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1508-13N_freq port1 port2 PARAMS: Cpar=0.114pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=33
+ R2=0.16
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=185
+ L_EL=21.5
+ L_F0=855E6
+ PkZ=0
.ends 1508-13N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
